US07498337B2
5-(2-bromophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
By a similar operation as in Reference Example 154 and using sodium hydride (60% in oil, 91.0 mg), 5-(2-bromophenyl)-1H-pyrrole-3-carbaldehyde (396 mg), 15-crown-5 (418 mg) and pyridin-3-ylsulfonyl chloride (309 mg), the title compound was obtained as a pale-yellow solid (yield 560 mg, 91%).

reactant | sodium hydride | 91.0 mg | [H-].[Na+]
reactant | 5-(2-bromophenyl)-1H-pyrrole-3-carbaldehyde | 396 mg | BrC1=C(C=CC=C1)C1=CC(=CN1)C=O | C11H8BrNO
reactant | 15-crown-5 | 418 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | pyridin-3-ylsulfonyl chloride | 309 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | 5-(2-bromophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | BrC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H11BrN2O3S
